### PR TITLE
[Merged by Bors] - feat(Analysis/Meromorphic): a non-zero meromorphic function has multiplicative inverse

### PR DESCRIPTION
**Pull request by wwylele**
This is the core lemma to say that the equivalent classes of meromorphic functions have will-defined inverse

AI usage disclosure: Aristotle was used to draft the initial proof, and it was manually restructured.

---

- [x] depends on: #39904

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 1]
```diff
@@ -147,6 +147,13 @@ theorem meromorphicOrderAt_ne_top_iff_eventually_ne_zero {f : 𝕜 → E} (hf :
     simp_all [zpow_ne_zero, sub_ne_zero]
   · simp_all [meromorphicOrderAt_eq_top_iff, Eventually.frequently]
 
+/-- The order of a meromorphic function `f` at `z₀` is finite iff `f` has multiplicative inverse
+in a sufficiently small neighborhood of `z₀`. -/
+theorem meromorphicOrderAt_ne_top_iff_mul_inv_evnetuallyEq {f : 𝕜 → 𝕜'} (hf : MeromorphicAt f x) :
```
Comment (CoolRmal) [inline Mathlib/Analysis/Meromorphic/Order.lean]:
```suggestion
theorem meromorphicOrderAt_ne_top_iff_mul_inv_eventuallyEq {f : 𝕜 → 𝕜'} (hf : MeromorphicAt f x) :
```

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 2]
```diff
@@ -770,6 +777,27 @@ theorem meromorphicOrderAt_ne_top_of_isPreconnected (hf : MeromorphicOn f U) {y
...
+/-- On a preconnected set, a meromorphic function that's not constantly zero has a
+multiplicative inverse. In this version of the lemma, we relax the equality to
+`=ᶠ[codiscreteWithin U]`. -/
+theorem mul_inv_eventuallyEq {f : 𝕜 → 𝕜'} (hf : MeromorphicOn f U) (hU : IsPreconnected U)
+    (h0 : ¬f =ᶠ[codiscreteWithin U] 0) :
+    f * f⁻¹ =ᶠ[codiscreteWithin U] 1 := by
+  simp_rw [EventuallyEq, Filter.Eventually, mem_codiscreteWithin_iff_forall_mem_nhdsNE,
+    union_comm _ Uᶜ, ← mem_inf_principal'] at ⊢ h0
+  intro x hx
+  refine mem_inf_of_left <| (meromorphicOrderAt_ne_top_iff_mul_inv_evnetuallyEq (hf x hx)).mp ?_
```
Comment (wwylele) [inline Mathlib/Analysis/Meromorphic/Order.lean]:
```suggestion
  refine mem_inf_of_left <| (meromorphicOrderAt_ne_top_iff_mul_inv_eventuallyEq (hf x hx)).mp ?_
```

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 3]
```diff
@@ -787,6 +794,27 @@ theorem meromorphicOrderAt_ne_top_of_isPreconnected (hf : MeromorphicOn f U) {y
...
 
+theorem meromorphicOrderAt_eq_top_of_isPreconnected (hf : MeromorphicOn f U) {y : 𝕜}
+    (hU : IsPreconnected U) (h₁x : x ∈ U) (hy : y ∈ U) (h₂x : meromorphicOrderAt f x = ⊤) :
+    meromorphicOrderAt f y = ⊤ := by
+  contrapose h₂x with h
+  exact hf.meromorphicOrderAt_ne_top_of_isPreconnected hU hy h₁x h
+
+/-- On a preconnected set, a meromorphic function that's not constantly zero has a
+multiplicative inverse. In this version of the lemma, we relax the equality to
+`=ᶠ[codiscreteWithin U]`. -/
```
Comment (mcdoll) [inline Mathlib/Analysis/Meromorphic/Order.lean]:
```suggestion
/-- On a preconnected set, a meromorphic function that is not constantly zero has a
multiplicative inverse.

In this version of the lemma, we relax the equality to `=ᶠ[codiscreteWithin U]`. -/
```

**Review by mcdoll — APPROVED** [review]
LGTM, but I am not super familiar with this part of the library.

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 4]
```diff
@@ -787,6 +794,28 @@ theorem meromorphicOrderAt_ne_top_of_isPreconnected (hf : MeromorphicOn f U) {y
...
+theorem meromorphicOrderAt_eq_top_of_isPreconnected (hf : MeromorphicOn f U) {y : 𝕜}
+    (hU : IsPreconnected U) (h₁x : x ∈ U) (hy : y ∈ U) (h₂x : meromorphicOrderAt f x = ⊤) :
+    meromorphicOrderAt f y = ⊤ := by
+  contrapose h₂x with h
+  exact hf.meromorphicOrderAt_ne_top_of_isPreconnected hU hy h₁x h
+
+/-- On a preconnected set, a meromorphic function that is not constantly zero has a
+multiplicative inverse.
+
+In this version of the lemma, we relax the equality to `=ᶠ[codiscreteWithin U]`. -/
```
Comment (j-loreaux) [inline Mathlib/Analysis/Meromorphic/Order.lean]: Presumably, you mean to say something like:
```suggestion
A version of `meromorphicOrderAt_ne_top_iff_mul_inv_eventuallyEq` where we relax the
equality to `=ᶠ[codiscreteWithin U]`. -/
```

**Review by j-loreaux — COMMENTED** [review]
bors d+
